Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Chlorpromazine / Latex
 
Attending: ___
 
Chief Complaint:
Fever, Gram-negative rod bacteremia, metastatic gallbladder CA.
 
Major Surgical or Invasive Procedure:
Endoscopic retrograde cholangiopancreatography
 
History of Present Illness:
Mr. ___ is a ___ man with metastatic gallbladder 
cancer, last chemo FOLFIRI on ___, admitted for fever and 
GNR bacteremia. He called his oncologist on ___ with fevers 
and was sent to ___ for blood count check. 
At that time he was not neutropenic and initial work-up was 
unremarkable. However, today his blood culture came back 
positive with gram negative rods. He was asked to come to the 
___ ED. 
.
In the ED, T 98, HR 110, BP 96/59, RR 20, 98% RA. U/a showed no 
pyuria. WBC 3.8 with 91% polys. CXR revealed a small-to-moderate 
left pleural effusion with overlying atelectasis. He was given 
vancomycin, gentamicin, levofloxacin, and meropenem. 
.
ROS: He denies sweats, nausea, vomiting, headache, chest pain, 
shortness of breath, cough, back pain, constipation, 
hematochezia, hematuria, other urinary symptoms, or rash.  All 
other ROS were negative.
 
Past Medical History:
ONCOLOGIC HISTORY
Gallbladder Ca - diagnosed in ___ on cholecystectomy w path 
demonstrating adenocarcinoma poorly differentiated, w liver 
invasion, extracapsular extension, and positive LN, s/p ERCP 
___ with stenting of the CBD and CHD, s/p C6 gem/cis, XRT L 
rib lesion, s/p FLOX, s/p C3 FOLFIRI (last dose ___.
.
MEDICAL HISTORY
Hypercholesterolemia
Bilateral knee replacements in ___
CCY and gallbladder fosa dissection ___.
 
Social History:
___
Family History:
Mother who died at age ___ of Alzheimer's disease.  His father 
died at age ___,
also of Alzheimer's disease.  His grandparents died at a young 
age of unknown causes.
 
Physical Exam:
VS: Tmax 98.7F, BP 108/66, HR 68, RR 16, O2 Sat 96% RA.
GEN: A&O, no acute signs of distress.
HEENT: Sclerae non-icteric, o/p clear, mmm, mild 
mucositis/thrush.
Neck: Supple, no thyromegaly.
Lymph nodes: No cervical, supraclavicular, or inguinal LAD.
CV: S1S2, RRR, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, NT, ND, no HSM.
EXTR: No edema.
DERM: Psoriatic lesion on ___ and ___.
Neuro: Non-focal.
PSYCH: Appropriate and calm.
 
Pertinent Results:
___ CT abd/pelvis
1. Unchanged minimal central intrahepatic biliary prominence. 
2. CBD stent in unchanged position with persistent soft tissue 
in porta hepatis likely represent local invasion gallbladder 
carcinoma with unchanged diffuse peritoneal carcinomatosis. 
3. Bilateral simple pleural effusions. 

___ ERCP Report
Normal major papilla with previous sphincterotomy noted. 
Cannulation of the biliary duct was successful and deep using a 
free-hand technique. Contrast medium was injected. Previous 
metal stent noted in CBD. Intrahepatic ducts were normal,however 
filling of CBD in proximal area was incomplete indicating 
blockage. CBD was sweeped with a balloon catheter and sludge and 
debris was removed. As there was resistance to balloon pull at 
ampulla, sphincterotomy was extended in the 12 o'clock position 
using a sphincterotome over an existing guidewire. Duct was 
cleared of debris with balloon sweeps.  Excellent drainage of 
bile and contrast noted. 

ADMISSION LABS:

___ 05:24PM   LACTATE-1.2
___ 04:20PM URINE  COLOR-Amber APPEAR-Clear SP ___
___ 04:20PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-150 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM UROBILNGN-8* PH-6.5 LEUK-NEG
___ 04:20PM URINE  ___ BACTERIA-RARE 
YEAST-NONE ___ 04:20PM URINE  MUCOUS-MOD
___ 03:30PM   GLUCOSE-137* UREA N-22* CREAT-0.9 SODIUM-129* 
POTASSIUM-3.8 CHLORIDE-95* TOTAL CO2-26 ANION GAP-12
___ 03:30PM   estGFR-Using this
___ 03:30PM   ALT(SGPT)-45* AST(SGOT)-37 LD(LDH)-303* ALK 
PHOS-318* TOT BILI-0.9
___ 03:30PM   LIPASE-32
___ 03:30PM   WBC-3.8* RBC-2.83* HGB-10.1* HCT-29.3* 
MCV-104* MCH-35.8* MCHC-34.6 RDW-15.0
___ 03:30PM   NEUTS-90.7* LYMPHS-3.5* MONOS-5.3 EOS-0.3 
BASOS-0.2
___ 03:30PM   PLT COUNT-134*

DISCHARGE LABS:

___ 06:00AM BLOOD WBC-3.4* RBC-2.51* Hgb-8.8* Hct-25.8* 
MCV-103* MCH-35.0* MCHC-34.0 RDW-14.6 Plt ___
___ 06:00AM BLOOD Glucose-101* UreaN-9 Creat-0.6 Na-137 
K-3.7 Cl-102 HCO3-30 AnGap-9
___ 06:00AM BLOOD ALT-68* AST-64* AlkPhos-517* TotBili-1.3
 
Brief Hospital Course:
HOSPITAL COURSE
This is a ___ M w/ h/o stage IV gallbladder ca diagnosed ___, 
s/p FOLFIRI (last dose ___ p/w GNR bacteremia, now on 
meropenem, ERCP demonstrating incomplete obstruction of CBD, now 
s/p clearance of obstruction, remaining hemodynamically stable 
and comfortable
.
ACTIVE
#. GNR sepsis: Patient was admitted with an OSH blood cx 
reported as being postiive for w klebsiella (R to ampicillin), 
with blood cultures positive here as well.  No obvious source in 
urine and lungs.  The patient was started on meropenem.  Likely 
source was thought to be biliary obstruction given history of 
gallbladder ca.  On ERCP partial obstruction was visualized and 
cleared.  The patient's transaminases came down in the post 
procedural period, and his bilirubinemia normalized.  His 
meropenem was narrowed to oral ciprofloxacin on ___.  He will 
receive treatment for a total of 14 days beginning on ___.  
.
# Stage IV gallbladder cancer: As above, it was thought 
gallbladder was likely source for infection.  Plans to initiate 
continuous ___ pump were deferred to outpatient setting.  
.
INACTIVE
# GERD: Continued omeprazole.

 
Medications on Admission:
Baclofen 10mg PO q4hr for hiccups
Lorazepam 0.5-1mg PO q4-6hr prn nausea
Metoclopramide 10mg PO TID
Omeprazole 40mg PO daily
Ondansetron 4mg TID prn
Aspirin 81mg PO daily
 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. baclofen 10 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
3. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
4. Emend 125 mg Capsule Sig: One (1) Capsule PO days 1,2,3 of 
chemo.  
5. Zofran 4 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.  
6. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
7. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for nausea.  
8. oseltamivir 75 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
9. Cipro 750 mg Tablet Sig: One (1) Tablet PO twice a day for 12 
days.
Disp:*24 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Obstructive Hyperbilirubinemia
Gallbladder CA
hypercholesterolemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ for the evaluation and treatment of 
your fever.  When you were admitted we found that there was 
bacteria in your blood.  We treated you with antibiotics and you 
began to feel better.  Because our laboratory examination showed 
that your liver and bile system were likely blocked, we had you 
undergo an ERCP procedure.  During this procedure they were able 
to relieve the blockage.  You tolerated this procedure well with 
no complications, and did well in the recovery period.  You were 
then deemed safe for discharge on oral antibiotic medicines.  

Medications:
Added: ciprofloxacin
Changed: none
Removed: none

 
Followup Instructions:
___